US04638070
To a solution of 32 gr. of 6-propionyl-thiochromane in 400 ml of anhydrous ether, 8 ml of bromine are dropwise added, temperature being maintained at ±5° C. After addition, the mixture is still stirred for 2 to 3 hours at room temperature, than an aqueous saturated NaHCO3 solution is slowly added. The aqueous phase is twice extracted with 100 ml ether, combined organic phases are dried on MgSO4, filtered, and solvent is evaporated in vacuo. The residue so obtained is treated with 100 ml of petroleum ether; 38 gr. of α-bromo-6-propionyl-thiochromane are obtained.

reactant | 6-propionyl-thiochromane | C(CC)(=O)C=1C=C2CCCSC2=CC1 | C12H14OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | bromine | 8 ml | BrBr | Br2
solvent | ether | 400 ml | CCOCC | C4H10O
product | α-bromo-6-propionyl-thiochromane | Yield 86% | BrC(C(=O)C=1C=C2CCCSC2=CC1)C | C12H13BrOS
